Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right leg weakness, pain
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Mr. ___ is a ___ male with history of metastatic 
castrate-resistant prostate adenocarcinoma s/p radical 
prostatectomy and salvage SBRT with progression on multiple 
regimens most recently on Cabazitaxel who presents with right 
lower extremity weakness and numbness.

He reports that he got 5 fractions of radiation therapy to the 
right hip 5 days ago for pain. Since then he noticed parasthesia 
and numbness in his right leg, mostly his medial thigh and knee. 
His Oncologist started him on dexamethasone with mild 
improvement in his symptoms. Today while walking his right leg 
suddenly gave out at the knee and he fell. He denies head strike 
and loss of consciousness. He was unable to bear weight. He 
normally ambulates with a cane. He has mild discomfort at the 
knee. He said this never happened to him before. Denies any 
fever/chills and urinary/bowel incontinence. He denies any back 
pain.

On arrival to the ED, initial vitals were 97.9 80 ___ 100% 
RA. Code cord was called on arrival and Neurology was consulted 
who recommended spine MRI, possible spine consult, and bladder 
scan. Exam was notable for ___ strength in the right hip flexor, 
subjective decreased sensation over the lateral aspect of his 
right hip, and normal rectal tone. Labs were notable for WBC 
13.5, H/H 10.1/32.0, Plt 320, INR 1.0, Na 139, K 5.0, BUN/Cr 
43/0.7, and UA with blood/RBCs. Pan spine MRI showed diffuse 
metastatic disease involving every imaged bone without signs of 
cord compression. Patient was given metformin 500mg PO, 
oxycontin 10mg PO, and prednisone 5mg PO. He was able to urinate 
400cc urine in ED with 30cc post void residual. Neurosurgery was 
consulted and recommended no acute neurosurgical intervention 
and admission for work-up of right hip pain. Decisions was made 
to admit patient to ___ for "worsening cancer, weakness, and 
failure to thrive". Prior to transfer vitals were 97.2 78 168/85 
18 95% RA.

On arrival to the floor, patient reports feeling well. Notes 
stable numbness. He denies fevers/chills, night sweats, 
headache, vision changes, dizziness/lightheadedness, shortness 
of breath, cough, hemoptysis, chest pain, palpitations, 
abdominal pain, nausea/vomiting, diarrhea, hematemesis, 
hematochezia/melena, dysuria, hematuria, and new rashes.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: Diagnosed with prostate cancer, ___ score 7 -> 
Laparoscopic radical prostatectomy at ___
- ___: Biochemical recurrence with PSA -> Salvage EBRT to 
prostate at ___
- Undetectable PSAs in the interim; ___: PSA was 0.03
- ___: Gross hemturia -> CT scan & bone scan were negative 
for metastatic disease, although there was subtle abnormalities 
in the left and right rib cage
- ___: PSA rose to 2.94
- ___: PSA rose to ___
- ___: Started on Eligard (leuprolide) -> complicated by 
significant myalgias and hot flashes
- ___: PSA decreased to 0.11
- ___: PSA increased to 1.89
- ___: CT chest demonstrated increased uptake in the spine 
and ribs
- ___: Bone scan was positive for multiple metastatic lesions 
to the bone
- ___: Received loading dose of FIRMAGON (degarelix) 240 mg 
subcutaneous and subsequently received monthly injections 
- PSA continued to rise
- ___: Started on zytiga and prednisone second line therapy
-> weight gain. Also started on monthly Xgeva
- ___: PSA 0.69
- ___: PSA 0.93
- ___: Bone scan showed worsening uptake in multiple 
skeletal sites.
- ___: PSA 1.89
- ___: PSA 2.59
- ___: Bone scan showed worsening uptake. Started on Xtandi 
(in addition to Firmagon and Xgeva) 
- ___: PSA 4.24
- ___: Degarelix and xgeva
- ___: CT showed new sclerotic bone metastases within the 
sternum, ribs, thoracic and lumbar vertebral bodies. New lytic 
lesion in right iliac bone 2.4 x 1.6 cm. New pathologic fracture 
of the posterior right 11th rib
- ___: PSA 6.98
- ___: Start docetaxel
- ___: PSA 6.34
- ___: PSA ___: CT scans showed significant progression and sclerotic 
bony metastatic disease, along with paravertebral soft tissue 
extension in the lower thoracic spine, with new epidural 
involvement greatest at T10; and new pleural based nodule in the 
left upper lobe.
- Discontinued docetaxel, after 4 cycles
- ___: Palliative XRT to paravertebral soft tissue lower 
T10 spine
- ___: Degarelix last dose; stopped afterwards as he had 
low testosterone levels and was experiencing hot flashes
- ___: START Cabazitaxel
- ___: PSA 11.72
- ___: PSA 12.62
- ___: Bone scan
- ___: CT C/A/P and bone scan showed progression of diffuse 
sclerotic bony metastases & lung opacities with new soft tissue 
density adjacent to the lateral left ___ and 11th ribs.
- ___: PSA 18.52
- ___: PSA ___: Discontinued Cabazitaxel (after 4 cycles) due to 
increasing PSA, widespread osseous metastatic disease and anemia
- Discussed different treatment options, including clinical 
trial
___ (PEMBROLIZUMAB IN ADDITION TO RADIUM-223 IN PROSTATE
CANCER). After discussion with his local oncologist, Dr.
___ preferred to receive chemotherapy locally.

PAST MEDICAL HISTORY:
- Hyperlipidemia
- Hypertension
- Borderline Diabetes
- Environmental Pollen Allergies
- Sinusitis

 
Social History:
___
Family History:
FAMILY HISTORY: Mother deceased from pancreatic cancer at ___. 
Brother deceased with prostate cancer.
 
Physical Exam:
VS: Afebrile and VS stable
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, positive bowel sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or 
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII 
intact. Decreased strength right hip flexion. Decreased 
sensation to light touch intact in right medial thigh to knee 
and right lateral shin.
SKIN: No significant rashes.

 
Pertinent Results:
___ 07:25AM BLOOD WBC-10.5* RBC-3.11* Hgb-9.5* Hct-30.2* 
MCV-97 MCH-30.5 MCHC-31.5* RDW-17.6* RDWSD-61.5* Plt ___
___ 07:25AM BLOOD Calcium-8.4 Phos-2.3* Mg-2.2
___ 07:25AM BLOOD Glucose-150* UreaN-33* Creat-0.6 Na-140 
K-3.9 Cl-101 HCO3-23 AnGap-16

MICROBIOLOGY:
___ Urine Culture - Pending

IMAGING:
MRI C/T/L-Spine w/ and w/o Contrast ___
1. Diffuse metastatic disease involving every imaged bone.
2. No evidence of neoplastic encroachment on the spinal canal.
3. Mild changes of degenerative disease without spinal canal 
narrowing.
4. Lumbar spine arachnoid cyst crowding the nerve roots of the 
cauda equina.

 
Brief Hospital Course:
___ male with history of metastatic castrate-resistant 
prostate adenocarcinoma s/p radical prostatectomy and salvage 
SBRT with progression on multiple regimens most recently on 
Cabazitaxel who presents with right lower extremity weakness and 
numbness.

# Right Leg Weakness/Numbness: Symptoms started after radiation. 
There are mild degenerative changes in the cervical spine with 
loss of height of intervertebral discs and loss of signal on the 
T2 weighted images throughout the spine.  There is no evidence 
of degenerative encroachment on the spinal canal.  In the lumbar 
spine there appears to be a an arachnoid cyst dorsal to the 
roots of the cauda equina extending from T12 to the lower  
endplate of L2.  This narrows the thecal sac and produces 
crowding of the nerve roots of the cauda equina.  However, there 
does not appear to be cauda equina compression. Nerve 
inflammation from radiation to the right hip could be 
contributing. He was seen by Neurology and Neurosurgery. He had 
no problems with urinary retention. Continue dexamethasone given 
patient reports mild benefit. Patient will continue home ___.

# Metastatic Prostate Cancer: Metastatic to bone. Recently 
progressed on Cabazitaxel. Plans to enroll in clinical trial.

# Cancer-Related Pain: Continue home oxycontin and Percocet

# Chronic anemia: Likely due to malignancy with diffuse bone 
disease. No evidence of active bleeding. Continue to monitor Hgb 
at outpatient follow up

# Leukocytosis: Likely due to steroids. No evidence of 
infection. Follow-up urine culture

# Hyperlipidemia: Continue home pravastatin

# Psych: Continue home venlafaxine

Transitional issues:
[ ] Dr. ___ working with ___ local oncologist to 
determine next steps. Their offices will be reaching out to 
patient for scheduling
[ ] Monitor Hgb
[ ] Urine culture pending at discharge

Mr. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE SR (OxyconTIN) 10 mg PO BID:PRN pain 
2. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 
3. Dexamethasone 4 mg PO BID 
4. Pravastatin 20 mg PO QPM 
5. Venlafaxine XR 75 mg PO DAILY 
6. Acetaminophen 1000 mg PO BID:PRN Pain - Mild 
7. Calcium Carbonate 500 mg PO QID:PRN reflux 
8. Cetirizine 10 mg PO DAILY:PRN allergies 
9. Vitamin D 400 UNIT PO DAILY 
10. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN congestion 
11. Naproxen 500 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO BID:PRN Pain - Mild  
2.  Calcium Carbonate 500 mg PO QID:PRN reflux  
3.  Cetirizine 10 mg PO DAILY:PRN allergies  
4.  Dexamethasone 4 mg PO BID  
5.  Fluticasone Propionate NASAL 1 SPRY NU BID:PRN congestion  
6.  Naproxen 500 mg PO Q8H:PRN Pain - Moderate  
7.  OxyCODONE SR (OxyconTIN) 10 mg PO BID:PRN pain  
8.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate  
9.  Pravastatin 20 mg PO QPM  
10.  Venlafaxine XR 75 mg PO DAILY  
11.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Metastatic prostate cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ with right leg weakness. We evaluated 
for compression of your spinal cord in the setting of your 
cancer but did not find any evidence of this on MRI.

Instructions:
- Continue your home medications and home physical therapy

 
Followup Instructions:
___